US07825253B2
(5-Methyl-furan-2-ylmethyl)-[5-(pyridin-3-ylmethoxy)-quinolin-2-yl]-amine
The title compound, MS: m/e=346.3 (M+H+), was prepared in accordance with the general method of example 63 from 5-hydroxy-2-chloroquinoline (CAS 124467-35-2), 3-pyridyl benzyl bromide and 5-methyl-2-furanmethanamine.

reactant | 5-hydroxy-2-chloroquinoline | OC1=C2C=CC(=NC2=CC=C1)Cl | C9H6ClNO
reactant | 3-pyridyl benzyl bromide | N1=CC(=CC=C1)C(C1=CC=CC=C1)Br | C12H10BrN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
product | (5-Methyl-furan-2-ylmethyl)-[5-(pyridin-3-ylmethoxy)-quinolin-2-yl]-amine | CC1=CC=C(O1)CNC1=NC2=CC=CC(=C2C=C1)OCC=1C=NC=CC1 | C21H19N3O2
